US07402585B2
N′-(5-{[(2R)-1-(2-tert-butoxyethyl)pyrrolidin-2-yl]methoxy}-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide (300 mg, 0.74 mmol) in acetic acid (0.64 ml) was reacted with (3-amino-1H-pyrazol-5-yl)acetic acid (110 mg, 0.78 mmol) at 120° C. for 20 minutes. The solvent was evaporated, and the residue triturated with dichloromethane to yield {3-[(7-{[(2R)-1-(2-tert-butoxyethyl)pyrrolidin-2-yl]methoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}acetic acid (183 mg, 47% yield):

reactant | N′-(5-{[(2R)-1-(2-tert-butoxyethyl)pyrrolidin-2-yl]methoxy}-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide | 0.74 mmol, 300 mg | C(C)(C)(C)OCCN1[C@H](CCC1)COC=1C(=CC(=C(C1)N=CN(C)C)C#N)OC | C22H34N4O3
reactant | (3-amino-1H-pyrazol-5-yl)acetic acid | 0.78 mmol, 110 mg | NC1=NNC(=C1)CC(=O)O | C5H7N3O2
solvent | acetic acid | 0.64 ml | C(C)(=O)O | C2H4O2
product | {3-[(7-{[(2R)-1-(2-tert-butoxyethyl)pyrrolidin-2-yl]methoxy}-6-methoxyquinazolin-4-yl)amino]-1H-pyrazol-5-yl}acetic acid | 183 mg, 47% yield | C(C)(C)(C)OCCN1[C@H](CCC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)O)OC | C25H34N6O5
